US20010008903A1
A stirred solution of ethyl 3-chloro-5-methoxybenzo[b]thiophene-2-carboxylate (20.0 g) in dichloromethane (80 ml) at −20° C. under an atmosphere of nitrogen was treated with boron tribromide (1 M solution in dichloromethane; 90 ml) and the solution allowed to warm up to room temperature slowly. After 2 hours the mixture was carefully poured into ethanol (400 ml) and left to stand for 10 minutes. The solvent was evaporated under reduced pressure and the residue dissolved in ethyl acetate (500 ml). The resulting solution was washed with water (300 ml), dried over sodium sulphate and the solvent evaporated under reduced pressure to give ethyl 3-chloro-5-hydroxybenzo[b]thiophene-2-carboxylate (18.68 g) as an off-white solid; m.p. 160-161° C.

reactant | ethyl 3-chloro-5-methoxybenzo[b]thiophene-2-carboxylate | 20.0 g | ClC=1C2=C(SC1C(=O)OCC)C=CC(=C2)OC | C12H11ClO3S
reactant | boron tribromide | 1 M, 90 ml | B(Br)(Br)Br | BBr3
reactant | ethanol | 400 ml | C(C)O | C2H6O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | ethyl 3-chloro-5-hydroxybenzo[b]thiophene-2-carboxylate | 18.68 g | ClC=1C2=C(SC1C(=O)OCC)C=CC(=C2)O | C11H9ClO3S
